Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ y/o M s/p MVC with perilunate dislocation and with median 
neuropathy 
 
Major Surgical or Invasive Procedure:
open reduction with repair of SLIL and LTIL with suture anchors, 
K-wires stabilization,and open carpel tunnel release (Dr. 
___, ___

 
History of Present Illness:
___ RHD male with PMH of T2DM and thrombocytopenia presents
with bilateral hand and wrist pain after MVC.  Patient sustained
a head on MVC earlier today.  He experienced an axial load onto
his hands.  Patient noted immediate pain and swelling in his
right hand and wrist.  Left hand pain currently a ___.  No
additional injuries or LOC. Patient describes numbness in his
right hand, particularly the median nerve distribution.  He
presented to OSH and was referred to ___ surgical 
intervention.
 
Past Medical History:
T2DM and thrombocytopenia 
 
Social History:
___
Family History:
NC
 
Physical Exam:
NAD, A&Ox4
nl resp effort

Right upper extremity:
- splint in place, CDI
- moderate ecchymosis and swelling to exposed fingertips
- Full, painless ROM at shoulder, elbow, with some painful pROM
of the digits
- Fires EPL/FPL/DIO
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse, WWP

 
Pertinent Results:
___ 04:25PM BLOOD WBC-6.2 RBC-5.41 Hgb-13.5* Hct-43.3 
MCV-80* MCH-25.0* MCHC-31.2* RDW-14.2 RDWSD-40.4 Plt ___
___ 04:25PM BLOOD Neuts-70.9 Lymphs-18.7* Monos-7.3 Eos-2.3 
Baso-0.5 Im ___ AbsNeut-4.36 AbsLymp-1.15* AbsMono-0.45 
AbsEos-0.14 AbsBaso-0.03
___ 04:36PM BLOOD ___ PTT-25.3 ___
___ 04:25PM BLOOD Plt ___
___ 04:25PM BLOOD Glucose-159* UreaN-16 Creat-1.2 Na-142 
K-4.9 Cl-105 HCO3-24 AnGap-13
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have perilunate dislocation and with median
neuropathy and was admitted to the hand surgery service. The 
patient was taken to the operating room on ___ for open 
reduction with repair of SLIL and
LTIL with suture anchors, K-wires for stabilization, open CTR, 
which the patient tolerated well. For full details of the 
procedure please see the separately dictated operative report. 
The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ antibiotics and anticoagulation per routine. The 
patient's home medications were continued throughout this 
hospitalization. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non weight bearing in the right upper extremity. The patient 
will follow up in the Hand ___ clinic in ___ days. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
 Metformin 1000 mg BID, Januvia 100 mg QD, simvastatin 20 mg
QD, lisinopril 20 mg QD, Flomax, ASA 325 mg QD 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth five times daily 
Disp #*60 Tablet Refills:*0 
2.  Cephalexin 500 mg PO Q12H Duration: 5 Days 
RX *cephalexin 500 mg 1 tablet(s) by mouth twice daily Disp #*10 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*50 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg 1 to 2 tablet(s) by mouth every 4 hours Disp 
#*36 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth daily Disp #*40 
Tablet Refills:*0 
6.  Lisinopril 20 mg PO DAILY  
7.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right perilunate dislocation and with median neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER HAND/UPPER EXTREMITY SURGERY:

- You were in the hospital for upper extremity surgery. It is 
normal to feel tired or "washed out" after surgery, and this 
feeling should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- non weight bearing to the right upper extremity in splint to 
be worn until follow up appointment

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.
- you were started on the antibiotic Keflex, continue to take 
this medication as prescribed

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.
- Splint must be left on until follow up appointment unless 
otherwise instructed

SPLINT CARE:
- Do NOT get splint wet
- Please remain in the splint until follow-up appointment.  
Again, please keep your splint dry at all times.  If you have 
concerns regarding your splint, please call the clinic at the 
number provided.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

Treatments Frequency:
 
 
Followup Instructions:
___